US09056865B2
Step 3: 5′-chloro-3,5-dimethyl-2′-(piperazin-1-yl)-2,4′-bipyridine
To a solution of tert-butyl 4-(5′-chloro-3,5-dimethyl-2,4′-bipyridin-2′-yl)piperazine-1-carboxylate (5.6 g, 14 mmol) in CH2Cl2 (50 mL) was added TFA (25 mL). Then the mixture was stirred for 18 hours. TLC (CH2Cl2/MeOH=10:1) showed the starting material was consumed completely. After removal of the solvent, the residue was dissolved in CH2Cl2 (180 mL), basified with 3 N aq. NaOH until pH=11, washed with brine (40 mL), dried over Na2SO4, filtered and concentrated in vacuo to afford title compound (4.1 g, 97%) as orange oil.

reactant | tert-butyl 4-(5′-chloro-3,5-dimethyl-2,4′-bipyridin-2′-yl)piperazine-1-carboxylate | 14 mmol, 5.6 g | ClC=1C(=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)C1=NC=C(C=C1C)C | C21H27ClN4O2
reactant | TFA | 25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 5′-chloro-3,5-dimethyl-2′-(piperazin-1-yl)-2,4′-bipyridine | 4.1 g, 97% | ClC=1C(=CC(=NC1)N1CCNCC1)C1=NC=C(C=C1C)C | C16H19ClN4
